US08114887B2
Step 1: 3-[(1-methylprop-2-enyl)oxy]benzaldehyde
Added DEAD (0.964 mL, 6.142 mmole) dropwise to a solution of triphenylphosphine (0.1.611 g, 6.142 mmole), 3-buten-2-ol (Fluka, 0.423 mL, 4.91 mmole), and 3-hydroxy benzaldehyde (0.5 g, 4.09 mmole) in 10 mL dry THF, at rt, under Argon. After 10 min, the reaction was concentrated in vacuo and was purified on a 35 g Redisep column eluting with a gradient of 5%-30% EtOAc in hexanes.

reactant | DEAD | 6.142 mmole, 0.964 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 6.142 mmole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-buten-2-ol | 4.91 mmole, 0.423 mL | CC(C=C)O | C4H8O
reactant | 3-hydroxy benzaldehyde | 4.09 mmole, 0.5 g | OC=1C=C(C=O)C=CC1 | C7H6O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-[(1-methylprop-2-enyl)oxy]benzaldehyde | CC(C=C)OC=1C=C(C=O)C=CC1 | C11H12O2
